US05494908
6-Methoxy-N-methyl-N-[2-(2-pyridyl)ethyl]-1,2-benzisoxazol-3-amine hydrochloride hemihydrate
To a sealed tube was added 3-chloro-6-methoxy-1,2-benzisoxazole (2.5 g) and 2-(2-methylaminoethyl)pyridine (11.0 g). The reaction was heated to 140° C. over 72 hours and then cooled to room temperature. The residue was partitioned between EtOAc and brine, washed with brine (4×), and the organic phase was dried over MgSO4 and concentrated in vacuo. Preparative liquid chromatography (silica gel) eluting with 5% acetone/CH2Cl2 provided a residue upon evaporation (1.5 g) which was dissolved in ether and made acidic with ethereal hydrochloric acid. The precipatate was dried in vacuo and recrystallized from ethanol to yield 0.9 g, m.p. 152°-153° C.

reactant | 3-chloro-6-methoxy-1,2-benzisoxazole | 2.5 g | ClC1=NOC2=C1C=CC(=C2)OC | C8H6ClNO2
reactant | 2-(2-methylaminoethyl)pyridine | 11.0 g | CNCCC1=NC=CC=C1 | C8H12N2
product | 6-Methoxy-N-methyl-N-[2-(2-pyridyl)ethyl]-1,2-benzisoxazol-3-amine hydrochloride hemihydrate | O.Cl.COC1=CC2=C(C(=NO2)N(CCC2=NC=CC=C2)C)C=C1.COC1=CC2=C(C(=NO2)N(C)CCC2=NC=CC=C2)C=C1.Cl | InChI=1S/2C16H17N3O2.2ClH.H2O/c2*1-19(10-8-12-5-3-4-9-17-12)16-14-7-6-13(20-2)11-15(14)21-18-16;;;/h2*3-7,9,11H,8,10H2,1-2H3;2*1H;1H2
